US04436744
2-Chloroethyl 2-(2,6-dimethylphenyl)-hydrazinecarboxylate
To a mixture of 127 g (0.935 mol) 2,6-dimethylphenylhydrazine, 102.5 g (1.3 mol) pyridine and 400 ml water is added, at 0°-5°, 133.5 g (0.935 mol) chloroformic acid β-chloroethyl ester. After the addition is complete, the mixture is stirred for 2 hours at room temperature, the formed precipitate filtered off, washed with water and dried. The so obtained title compound is recrystallised from toluene to yield colourless crystals, m.p. 74°-75°.

reactant | 2,6-dimethylphenylhydrazine | 0.935 mol, 127 g | CC1=C(C(=CC=C1)C)NN | C8H12N2
reactant | pyridine | 1.3 mol, 102.5 g | N1=CC=CC=C1 | C5H5N
reactant | chloroformic acid β-chloroethyl ester | 0.935 mol, 133.5 g | ClCCOC(=O)Cl | C3H4Cl2O2
solvent | water | 400 ml | O | H2O
product | 2-Chloroethyl 2-(2,6-dimethylphenyl)-hydrazinecarboxylate | CC1=C(C(=CC=C1)C)NNC(=O)OCCCl | C11H15ClN2O2
